US09382228B2
A solution of 3,3,3-trifluoro-2,2-dimethylpropionic acid (0.5 g, 3.20 mmol) in DCM (5 mL) was treated with oxalyl chloride (0.350 mL, 4.00 mmol) and 1 drop of DMF, stirred at RT for 1 h, added drop-wise to a solution of NH4OH (˜15M, 5 mL, ˜75 mmol) in THF (5 mL) and stirred at RT overnight. Solids were removed via filtration through diatomaceous earth, rinsed well with 4:1 DCM/THF, the filtrate saturated with solid NaCl, extracted with 4:1 DCM/THF (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness to afford 3,3,3-trifluoro-2,2-dimethylpropanamide (370 mg, 74%). 1H NMR (400 MHz, DMSO-d6): δ 7.42 (s, 1H), 7.35 (s, 1H), 1.29 (s, 6H).

reactant | 3,3,3-trifluoro-2,2-dimethylpropionic acid | 3.20 mmol, 0.5 g | FC(C(C(=O)O)(C)C)(F)F | C5H7F3O2
reactant | oxalyl chloride | 4.00 mmol, 0.350 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | ˜75 mmol, ˜15M, 5 mL | [NH4+].[OH-]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3,3,3-trifluoro-2,2-dimethylpropanamide | 370 mg, 74% | FC(C(C(=O)N)(C)C)(F)F | C5H8F3NO
